US07932272B2
(5-Phenoxymethyl-pyridin-2-yl)-methanol
To a solution of 2-methyl-5-phenoxymethyl-pyridine described in Preparation Example 186 (323 mg, 1.62 mmol) in methylene chloride was added 3-chloroperoxylbenzoic acid (473 mg, 1.78 mmol, 65%) at 0° C., and the solution was stirred at room temperature for 7 hours. An aqueous solution of saturated sodium bicarbonate was added to the reaction solution at 0° C., which was then partitioned with ethyl acetate. The organic layer was separated, washed with an aqueous solution of saturated sodium bicarbonate and brine, and then, dried over anhydrous magnesium sulfate. The organic layer was filtered, then, the solvent was evaporated in vacuo. Acetic anhydride (4 mL) was added to this residue, which was then stirred for 30 minutes at 120° C. This reaction solution was cooled to room temperature, then, the solvent was evaporated in vacuo. Ethanol (5 mL), and an aqueous solution of 5N sodium hydroxide (2 mL) were added to this residue, and the solution was stirred at room temperature for 45 minutes. This reaction solution was concentrated in vacuo, the residue was partitioned in water and ethyl acetate. The organic layer was separated, washed with brine, and then, dried over anhydrous magnesium sulfate. The organic layer was filtered, then, the solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (heptane/ethyl acetate=1/1), and the title compound (167 mg, 48%) was obtained as a white solid.

reactant | 2-methyl-5-phenoxymethyl-pyridine | CC1=NC=C(C=C1)COC1=CC=CC=C1 | C13H13NO
reactant | 3-chloroperoxylbenzoic acid | 1.78 mmol, 473 mg | ClOOC=1C=C(C(=O)O)C=CC1 | C7H5ClO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (5-Phenoxymethyl-pyridin-2-yl)-methanol | 167 mg, 48% | O(C1=CC=CC=C1)CC=1C=CC(=NC1)CO | C13H13NO2
